US06515011B2
Boc2O (5.24 g, 24.0 mmol) was added to a stirred solution of 5-chloro-2-methylbenzylamine (3.11 g, 20.0 mmol) in CH2Cl2 (20 mL). After 30 min the solution was evaporated in vacuo and the residue was purified by flash column chromatography on silica (eluting with 5% methylene chloride, 5-15% ethyl acetate/hexanes gradient) to give tert-butyl 5-chloro-2-methylbenzylcarbamate (1.78 g) as a solid; 1H NMR (CDCl3, 400 MHz) δ 1.47 (s, 9H), 2.27 (s, 3H), 4.28 (d, J=5.3 Hz, 1H), 4.73 (br s, 1H), 7.08 (d, J=8.2 Hz, 1H), 7.15 (dd, J=2.0 and 8.2 Hz, 1H), 7.22 (s, 1H).

reactant | Boc2O | 24.0 mmol, 5.24 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-chloro-2-methylbenzylamine | 20.0 mmol, 3.11 g | ClC=1C=CC(=C(CN)C1)C | C8H10ClN
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-chloro-2-methylbenzylcarbamate | 1.78 g | ClC=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)C | C13H18ClNO2
